US05561150
A solution of 0.5 g (2.45 mmol) of 2-hydroxymethylene-6-ethoxy-1-indanone, 0.27 g (2.94 mmol) of (R)-1-hydrazino-2-propanol and 50 mg of p-toluenesulfonic acid in 50 ml of anhydrous toluene was heated on a water separator for 1 hour. After concentration in a vacuum, the reaction mixture was purified by column chromatography on silica gel (ethyl acetate). 0.49 g (77%) of (R)-1-(7-ethoxy-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl )-propan-2-ol was obtained as a yellow solid which was used directly in the next as reaction.

reactant | 2-hydroxymethylene-6-ethoxy-1-indanone | 2.45 mmol, 0.5 g | OC=C1C(C2=CC(=CC=C2C1)OCC)=O | C12H12O3
reactant | (R)-1-hydrazino-2-propanol | 2.94 mmol, 0.27 g | N(N)C[C@@H](C)O | C3H10N2O
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(7-ethoxy-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl )-propan-2-ol | 0.49 g, 77% | C(C)OC1=C2C=C3N(N=CC3=C2CC=C1)C[C@@H](C)O | C15H18N2O2
